US04465834
Preparation of Methyl α-Phenyl-α-(1-propynyl)glycolate
1-Propynylmagnesium bromide (0.2 mole) was made from magnesium (4.8 g., 0.2 g. atom) ethyl bromide (21.8 g., 0.2 mole) and excess propyne gas in 400 ml. of THF. The Grignard reagent then was siphoned under nitrogen into an addition funnel and added dropwise over a 40 minute period to a cooled solution of methyl phenylglyoxylate (32.8 g., 0.2 mole) in 200 ml. of THF. A slight temperature rise took place. The reaction mixture was stirred for 24 hours, and then poured onto a slurry of ice and 25 ml. conc. HCl. Ether was added, and the layers were separated. Several more ether extracts were made and the organic extracts combined and dried. The volatile components were stripped subsequently in vacuo and the residue distilled to yield 13.1 g. (32%) of the product, b.p. 109°-12° (0.2 mm.). The oil solidified on standing and melted at 64°-65° after recrystallization from 20°-40° petroleum ether.

reactant | 1-Propynylmagnesium bromide | 0.2 mole | C(#CC)[Mg]Br
reactant | magnesium | 4.8 g | [Mg] | Mg
reactant | ethyl bromide | 0.2 mole, 21.8 g | C(C)Br | C2H5Br
reactant | propyne | C#CC | C3H4
reactant | methyl phenylglyoxylate | 0.2 mole, 32.8 g | C1(=CC=CC=C1)C(C(=O)OC)=O | C9H8O3
reactant | HCl | Cl | ClH
solvent | Ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | Methyl α-Phenyl-α-(1-propynyl)glycolate | C1(=CC=CC=C1)C(C(=O)OC)(O)C#CC | C12H12O3
